US06207667B1
4-(6,7-Dimethoxy-4-quinazolinyl)-N-(3-pyridyl)-1-piperazinecarboxamide (Compound 265)
To a suspension of 5.9 g (33 mmol) of nicotinoyl chloride hydrochloride in 50 ml of diethyl ether was added 50 ml of an aqueous solution of 12.0 g (185 mmol) of sodium azide under ice-cooling, followed by vigorous stirring at room temperature. After the organic layer was separated, the water layer was extracted with ether. Then, the combined organic layers were washed with a saturated aqueous solution of sodium chloride, and dried over magnesium sulfate. After the solvent was evaporated at a temperature below 30° C., the residue was dissolved in 40 ml of toluene. To the resulting solution was added 548 mg (2.00 mmol) of 6,7-dimethoxy-4-piperazinylquinazoline obtained according to the method described in South African Patent No.67 06512 (1968), followed by heating at 70° C. with stirring for 3 hours. After the reaction mixture was allowed to cool to room temperature, the solvent was evaporated, and the residue was purified by silica gel chromatography and recrystallized from ethyl acetate to give the desired compound as colorless crystals.

reactant | nicotinoyl chloride hydrochloride | 33 mmol, 5.9 g | Cl.C(C1=CN=CC=C1)(=O)Cl
reactant | sodium azide | 185 mmol, 12.0 g | [N-]=[N+]=[N-].[Na+]
reactant | 6,7-dimethoxy-4-piperazinylquinazoline | 2.00 mmol, 548 mg | COC=1C=C2C(=NC=NC2=CC1OC)N1CCNCC1 | C14H18N4O2
reactant | diethyl ether | 50 ml | C(C)OCC | C4H10O
product | 4-(6,7-Dimethoxy-4-quinazolinyl)-N-(3-pyridyl)-1-piperazinecarboxamide | Yield: 25% | COC=1C=C2C(=NC=NC2=CC1OC)N1CCN(CC1)C(=O)NC=1C=NC=CC1 | C20H22N6O3
